US03989714
3-(3,4-dimethoxyphenyl)hexahydro-7a-phenylindoline hydrochloride
Zinc powder (20 g) was added to a stirred solution of 6.5 g (0.018 mole) of 3-(3,4-dimethoxyphenyl)-hexahydro-1-hydroxy-7a-phenylindoline, 150 ml of methanol and 150 ml of 1N hydrochloric acid and the mixture was maintained at reflux for 1/2 hour. The mixture was cooled, treated with excess of 10MKOH and extracted with two one liter portions of ether. The extracts were combined, dried (K2CO3) and filtered. Hydrogen chloride gas was bubbled into the ether solution until complete precipitation of the white salt; wt. 4.5 g (67.2%), mp 303°-305° C. Recrystallization from methanol-ether afforded pure white crystals, mp 303°-305° C.

reactant | 3-(3,4-dimethoxyphenyl)-hexahydro-1-hydroxy-7a-phenylindoline | 0.018 mole, 6.5 g | COC=1C=C(C=CC1OC)C1CN(C2(CCCCC12)C1=CC=CC=C1)O | C22H27NO3
reactant | hydrochloric acid | 1N, 150 ml | Cl | ClH
catalyst | Zinc | 20 g | [Zn] | Zn
solvent | methanol | 150 ml | CO | CH4O
product | 3-(3,4-dimethoxyphenyl)hexahydro-7a-phenylindoline hydrochloride | Cl.COC=1C=C(C=CC1OC)C1CNC2(CCCCC12)C1=CC=CC=C1 | InChI=1S/C22H27NO2.ClH/c1-24-20-12-11-16(14-21(20)25-2)18-15-23-22(13-7-6-10-19(18)22)17-8-4-3-5-9-17;/h3-5,8-9,11-12,14,18-19,23H,6-7,10,13,15H2,1-2H3;1H
